US06683089B2
(2R)-N-allyloxyethyl-1,2,3,4,5,6-hexahydro-6,11,11-trimethyl-2,6-methano-3-benzazocin-10-ol-hydrochloride
1.8 g of allyloxyacetic acid are placed in 15 mL dichloromethane, combined with 4.8 g of TBTU and 7.5 mL of ethyldiisopropylamine and stirred for 15 min. at RT. Then the mixture is cooled to −5° C. and 3.1 g of 1,2,3,4,5,6-hexahydro-6,11,11-trimethyl-2,6-methano-3-benzazocin-10-ol are added. The mixture is stirred for 30 min at 0° C., and for 1 h at RT. Then it is washed once with 100 ml of 2N HCL and 100ml of 10% potassium carbonate solution, dried and evaporated down in vacuo. The residue is taken up in 50 mL of THF and added dropwise under nitrogen to a suspension of 1.0 g of lithium aluminium hydride in 50 ml of THF (temp. increases to 35° C.). Then the mixture is heated to 50° C., stirred for 1 h, cooled and 1 ml of water is added dropwise at 0-10° C., the mixture is stirred for 30 min, 3 ml of NaOH are added and the mixture is stirred for another 30 min. The precipitate is suction filtered, the mother liquor is evaporated down in vacuo and the residue is filtered through a short column (about 75 ml of silica gel; dichloromethane 70, ethyl acetate 20, methanol 10). The appropriate fractions are evaporated down in vacuo, and crystallised from acetone+eth. HCl. Yield 2.8 g (77%), melting point: 236° C.; [α]D20=−78,3° (c=1; methanol).

reactant | allyloxyacetic acid | 1.8 g | C(C=C)OCC(=O)O | C5H8O3
reactant | TBTU | 4.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 7.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,2,3,4,5,6-hexahydro-6,11,11-trimethyl-2,6-methano-3-benzazocin-10-ol | 3.1 g | CC12CCNC(CC3=C1C=CC=C3O)C2(C)C | C15H21NO
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2R)-N-allyloxyethyl-1,2,3,4,5,6-hexahydro-6,11,11-trimethyl-2,6-methano-3-benzazocin-10-ol-hydrochloride | Cl.C(C=C)OCCN1[C@@H]2CC3=C(C(CC1)(C2(C)C)C)C=CC=C3O | InChI=1S/C20H29NO2.ClH/c1-5-12-23-13-11-21-10-9-20(4)16-7-6-8-17(22)15(16)14-18(21)19(20,2)3;/h5-8,18,22H,1,9-14H2,2-4H3;1H/t18-,20?;/m1./s1
